US06432988B1
e) 4-Hydroxymethyl-2-methylthiophenol
95% LiAlH4 (0.55 g, 14 mmol) is introduced in absolute THF (10 ml) into a three-necked flask which is heated and flushed with argon. A solution of 4-hydroxy-3-methylthiobenzoic acid (1.37 g; 7.4 mmol) in absolute THF (15 ml) is added dropwise to this initial mixture with ice-cooling in the course of 5 min such that only moderate evolution of gas takes place. After addition is complete, the cooling is removed and the reaction mixture is stirred at RT for 30 min and at 55-65° C. for a further 21 h. After the reaction mixture has cooled to RT, it is treated carefully with ice water with ice-cooling. The basic Al(OH)3 precipitate is dissolved by addition of 10% strength sulfuric acid and the aqueous, acidic solution (pH=1) is extracted with diethyl ether (150 ml). The phenolic product is extracted from the combined ethereal extract using 2 portions of sodium hydroxide solution (10%, 50 ml). The alkaline sodium hydroxide extract is adjusted to pH=7 using hydrochloric acid (20% strength), the precipitate is taken up using diethyl ether (50 ml), and the neutral aqueous solution is extracted with diethyl ether (100 ml). The combined, ethereal extract is washed with saturated NaCl solution, dried over Na2SO4 and concentrated: a crystalline, white residue remains.

reactant | LiAlH4 | 14 mmol, 0.55 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-hydroxy-3-methylthiobenzoic acid | 7.4 mmol, 1.37 g | OC1=C(C=C(C(=S)O)C=C1)C | C8H8O2S
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-2-methylthiophenol | OCC1=CC(=C(C=C1)S)C | C8H10OS
